US06649641B2
Acetic Acid 1-{4-[1-(4-cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]-phenyl}-2-(2H-tetrazol-5-yl)ethyl Ester
1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)-1-{4-[1-hydroxy-2-(2H-tetrazol-5-yl)ethyl]benzyl}urea (30 mg, 0.05 mmol) was dissolved in DCM (1.5 ml) and acetic acid anhydride (15 μl) was added. The mixture was stirred at room temperature overnight, and then taken to dryness. The residual oil was dissolved in ethanol (2 ml), and heated to reflux for 0.5 min. Then cooled and evaporated to dryness. The residue was stripped twice from acetonitrile to give a quantitative yield of the title compound.

reactant | 1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)-1-{4-[1-hydroxy-2-(2H-tetrazol-5-yl)ethyl]benzyl}urea | 0.05 mmol, 30 mg | C1(=CCCCC1)C1=CC=C(C=C1)N(C(=O)NC1=CC(=CC(=C1)Cl)Cl)CC1=CC=C(C=C1)C(CC=1N=NNN1)O | C29H28Cl2N6O2
reactant | acetic acid anhydride | 15 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | Acetic Acid 1-{4-[1-(4-cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]-phenyl}-2-(2H-tetrazol-5-yl)ethyl Ester | quantitative yield | C1(=CCCCC1)C1=CC=C(C=C1)C(C1=CC=C(C=C1)C(CC=1N=NNN1)OC(C)=O)NC(=O)NC1=CC(=CC(=C1)Cl)Cl | C31H30Cl2N6O3
